US07405221B2
2-Methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted with 4-chlorobenzyl alcohol according to the procedure described in Example 59 to afford 2-(4-chlorobenzyloxy)-4-(4-chloro-phenyl)-5-(2,4-dichlorophenyl)pyrimidine (HRf): HPLC/MS: m/e=475 (M++1); Rt=5.01 min; 1H-NMR 400 MHz (CDCl3): 5.55 (s, 2H), 7.1 (d, J=9 Hz, 1H), 7.25-7.3 (m, 4H), 7.15-7.20 (m, 3H), 7.43 (m, 3H), 8.45 )s, 1H) and 2-(4-chlorobenzyloxy)-4-(4-chlorophenyl)5-(2-chloro-4-thiomethylphenyl)pyrimidine (LRf): HPLC/MS: m/e=487 (M++1); Rt=4.91 min; 1H-NMR 400 MHz (CDCl3): δ 2.52 (s, 3H), 5.55 (s, 2H), 7.15 (d, J=6 Hz, 2H), 7.25-7.30 (m, 3H), 7.55-7.40 (m, 4H), 7.45 (m, 2H), 8.42 (s, 1H).

reactant | 2-Methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H11Cl3N2S
reactant | 4-chlorobenzyl alcohol | ClC1=CC=C(CO)C=C1 | C7H7ClO
product | 2-(4-chlorobenzyloxy)-4-(4-chloro-phenyl)-5-(2,4-dichlorophenyl)pyrimidine | ClC1=CC=C(COC2=NC=C(C(=N2)C2=CC=C(C=C2)Cl)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C23H14Cl4N2O
